US06821965B1
4-chloro-N-(3-fluoro-5-morpholinophenyl)-3-(3-hydroxybenzamido)benzamide
Sodium methoxide (95%, 0.26 g) was added to a stirred solution of 3-(3-acetoxybenzamido)-4-chloro-N-(3-fluoro-5-morpholinophenyl)benzamide (1.23 g) in methanol (75 ml) which had been cooled to 0° C. The resultant solution was stirred at ambient temperature for three hours. The mixture was concentrated by evaporation to a volume of about 15 ml and water (20 ml) was added. The solution was acidified to pH3 by the addition of 1N aqueous hydrochloric acid solution. The precipitate so formed was isolated and dried under vacuum. There was thus obtained the title compound (0.86 g); NMR Spectrum: (DMSOd6) 2.47 (s, 3H), 3.08 (t, 4H), 3.7 (t, 4H), 6.53 (d, 1H), 6.98 (m, 1H), 7.14 (s, 1H), 7.19 (d, 1H), 7.33 (m, 1H), 7.42 (d, 1H), 7.70 (d, 1H), 7.84 (m, 1H), 8.15 (d, 1H), 9.75 (s, 1H), 10.08 (s, 1H), 10.29 (s, 1H); Mass Spectrum: M+H+ 470.

reactant | Sodium methoxide | 0.26 g | C[O-].[Na+]
reactant | 3-(3-acetoxybenzamido)-4-chloro-N-(3-fluoro-5-morpholinophenyl)benzamide | 1.23 g | C(C)(=O)OC=1C=C(C(=O)NC=2C=C(C(=O)NC3=CC(=CC(=C3)N3CCOCC3)F)C=CC2Cl)C=CC1 | C26H23ClFN3O5
solvent | methanol | 75 ml | CO | CH4O
product | 4-chloro-N-(3-fluoro-5-morpholinophenyl)-3-(3-hydroxybenzamido)benzamide | 0.86 g | ClC1=C(C=C(C(=O)NC2=CC(=CC(=C2)N2CCOCC2)F)C=C1)NC(C1=CC(=CC=C1)O)=O | C24H21ClFN3O4
